US09315491B2
2-(2,6-Dimethoxy-5-methylsulfanyl-pyrimidin-4-yl)-malonic acid dimethyl ester
A mixture of 4-chloro-2,6-dimethoxy-5-methylsulfanyl-pyrimidine (3.30 g, 15.0 mmol.) and dimethyl malonate (11.88 g, 90.0 mmol, 6.0 eq.) was added dropwise to slurry of sodium hydride (60% w/w) (3.67 g, 90.0 mmol, 6.0 eq) in DMF (80 ml) in ice bath at 0° C., then the reaction mixture was stirred at 100° C. for 10 hrs and dried, and the solvent was evaporated. The reaction mixture was partitioned between EA and 0.1 N HCl. The organic layer was washed with brine, dried over MgSO4, filtered and evaporated in vacuo. The resulting residue was purified by flash chromatography on silica gel (Hexane/EtOAc 6:1) to give a pale yellow oil product of 2.85 g (60.2%).

reactant | 4-chloro-2,6-dimethoxy-5-methylsulfanyl-pyrimidine | 15.0 mmol, 3.30 g | ClC1=NC(=NC(=C1SC)OC)OC | C7H9ClN2O2S
reactant | dimethyl malonate | 90.0 mmol, 11.88 g, 6.0 eq. | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | sodium hydride | 90.0 mmol, 3.67 g, 6.0 eq | [H-].[Na+]
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | 2-(2,6-Dimethoxy-5-methylsulfanyl-pyrimidin-4-yl)-malonic acid dimethyl ester | COC(C(C(=O)OC)C1=NC(=NC(=C1SC)OC)OC)=O | C12H16N2O6S
